US08835598B2
2,6-Dibromo-benzo[1,2-b:4,5-b′]dithiophene-4,8-diol (7)
2,6-Dibromo-4,8-dimethoxy-benzo[1,2-b:4,5-b′]dithiophene (500 mg, 1.22 mmol., 1.00 equiv.) and dichloromethane (12 mL) were added to a 50 mL schlenk flask. The mixture was cooled to −78° C. and boron tribromide was added (1.0 M solution in dichloromethane, 2.5 mL, 2.5 mmol., 2.1 equiv.) slowly. The mixture was stirred for 15 minutes at −78° C. before replacing the dry/ice acetone bath with an ice/water bath. The reaction mixture was left to warm to room temperature while stirring for 16 hours before cooling to 0° C. Water (dropwise at first, 150 mL total) and additional dichloromethane (50 mL) were added. The dichloromethane was removed on the rotary evaporator and the solid was collected by filtration. The solid was washed with water (25 mL) and dichloromethane (25 ml) to give a pale blue/green crude solid to be dried under vacuum and used in the next step without additional purification (287 mg). 1H NMR (400 MHz, CDCl3) δ 10.13 (s, 2H), 7.71 (s, 2H).

reactant | 2,6-Dibromo-4,8-dimethoxy-benzo[1,2-b:4,5-b′]dithiophene | 1.22 mmol, 500 mg, 1.00 equiv. | BrC1=CC=2C(S1)=C(C1=C(SC(=C1)Br)C2OC)OC | C12H8Br2O2S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2,6-Dibromo-benzo[1,2-b:4,5-b′]dithiophene-4,8-diol | BrC1=CC2=C(S1)C(=C1C(SC(=C1)Br)=C2O)O | C10H4Br2O2S2
